US07501406B2
a) 3,3,3-Trifluoro-propane-1-sulfonic acid [(R)-1-(2,4-dimethoxy-benzyl)-5,5-difluoro-2-oxo-azepan-3-yl]-amide
[(R)-1-(2,4-Dimethoxy-benzyl)-5,5-difluoro-2-oxo-azepan-3-yl]-carbamic acid tert-butyl ester (0.85 g, 1.85 mmol) was dissolved in 38 ml dichloromethane. 4 M HCl/1,4-dioxan (20 ml) were added dropwise and the mixture was allowed to react for 1 h. The reaction mixture was concentrated under reduced pressure and concentrated once from acetonitrile. To 291 mg of the resultant hydrochloride salt was added CH2Cl2 (20 ml) followed by the dropwise addition of Hünig's base (0.36 ml, 2.1 mmol). A solution of 3,3,3-trifluoropropane-1-sulfonyl chloride (0.19 g, 0.9 mmol) in CH2Cl2 (5 ml) was added and the reaction mixture (pH 8) was stirred for a further 1.5 h. The reaction mixture was purified over silica gel (heptane-ethylacetate, 95:5-0:100): white solid 0.30 g (77%);

reactant | [(R)-1-(2,4-Dimethoxy-benzyl)-5,5-difluoro-2-oxo-azepan-3-yl]-carbamic acid tert-butyl ester | 1.85 mmol, 0.85 g | C(C)(C)(C)OC(N[C@H]1C(N(CCC(C1)(F)F)CC1=C(C=C(C=C1)OC)OC)=O)=O | C20H28F2N2O5
reactant | HCl 1,4-dioxan | 4 M, 20 ml | Cl.O1CCOCC1
reactant | Hünig's base | 2.1 mmol, 0.36 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 3,3,3-trifluoropropane-1-sulfonyl chloride | 0.9 mmol, 0.19 g | FC(CCS(=O)(=O)Cl)(F)F | C3H4ClF3O2S
solvent | dichloromethane | 38 ml | ClCCl | CH2Cl2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | 3,3,3-Trifluoro-propane-1-sulfonic acid [(R)-1-(2,4-dimethoxy-benzyl)-5,5-difluoro-2-oxo-azepan-3-yl]-amide | COC1=C(CN2C([C@@H](CC(CC2)(F)F)NS(=O)(=O)CCC(F)(F)F)=O)C=CC(=C1)OC | C18H23F5N2O5S
